US07754200B2
(4-pentenyl)phosphonic acid diethyl ester
1H NMR (CDCl3) δ=5.8 (m, 1H), 5.0 (m, 2H), 3.2 (t, 2H), 2.2 (sq, 2H), 1.8 (sq, 2H). Triethyl phosphite (400 mL, 2.3 mol, 3.5 eq.) was added to the 1-iodo-4-pentene, and the mixture was heated to 130° C. for three hours. Diethyl ethyl phosphonate was removed by fractional vacuum distillation, revealing the desired 4-pentenyl phosphonic acid diethyl ester which was used without further purification. 1H NMR (CDCl3) δ=5.7 (m, 1H), 4.8 (m, 2H), 4.0 (m, 4H), 2.0 (sq, 2H), 1.7 (m, 4H), 1.2 (t, 6H). 31P NMR (CDCl3) δ=33.3.

reactant | Triethyl phosphite | 2.3 mol, 400 mL, 3.5 eq. | P(OCC)(OCC)OCC | C6H15O3P
reactant | 1-iodo-4-pentene | ICCCC=C | C5H9I
product | (4-pentenyl)phosphonic acid diethyl ester | C(C)OP(OCC)(=O)CCCC=C | C9H19O3P
